US08486940B2
1-(1H-benzo[d]imidazol-5-yl)-5-(4-chlorophenyl)imidazolidin-2-one
The compound was synthesized starting from 5-aminobenzimidazole (0.585 g, 4.4 mmol), 4-chlorobenzaldehyde (0.56 g, 4 mmol), TMSCN (0.5 mL, 4 mmol), PdC (10%, 0.02 g), TEA 1.93 mL, 13.9 mmol), di-(imidazol-1-yl)methanone (1.12 g, 6.9 mmol) as described in method 2. Yield: 0.045 g (3.6%); MS m/z 313.1 (M+H)+; 1H NMR (400 MHz, DMSO-D6): δ 3.04-3.08 (m, H); 3.79-3.84 (m, H); 5.49-5.52 (m, H); 6.93 (s, H); 7.33-7.38 (m, 5H); 7.19-7.22 (m, H); 7.51 (d, H, J=1.7 Hz); 8.05 (s, H); 12.22 (br s, H), HPLC (λ=214 nm, [B]: rt 9.62 min (99.7%).

reactant | 5-aminobenzimidazole | 4.4 mmol, 0.585 g | NC1=CC2=C(N=CN2)C=C1 | C7H7N3
reactant | 4-chlorobenzaldehyde | 4 mmol, 0.56 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | TMSCN | 4 mmol, 0.5 mL | [Si](C)(C)(C)C#N | C4H9NSi
reactant | di-(imidazol-1-yl)methanone | 6.9 mmol, 1.12 g | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
product | 1-(1H-benzo[d]imidazol-5-yl)-5-(4-chlorophenyl)imidazolidin-2-one | N1C=NC2=C1C=CC(=C2)N2C(NCC2C2=CC=C(C=C2)Cl)=O | C16H13ClN4O
